US05521147
By the method of Example 3, Step A, 0.5 gram (0.0013 mole) of 3-(5-chloro-3,4-dihydro-7-fluoro-2H-1-benzopyran-8-yl)-1-methyl-6-trifluoromethyluracil was reacted with 1.1 grams (0.0040 mole) of potassium persulfate and 0.3 gram (0.0013 mole) of copper(11) sulfate pentahydrate in 30 mL of acetonitrile and 30 mL of water, yielding 0.5 gram of 3-(5-chloro-3,4-dihydro-7-fluoro-2H-1-benzopyran-3-on-8-yl)-1-methyl-6-trifluoromethyluracil. The NMR spectrum was consistent with the proposed structure. This product was combined with another run of this reaction. The combined runs were subjected to column chromatography on silica gel, with 1:4 to 1:2 ethyl acetate:hexane as eluants. The product-containing fractions were combined and concentrated under reduced pressure, yielding 0.8 gram of 3-(5-chloro-3,4-dihydro-7-fluoro-2H-1-benzopyran-4-on-8-yl)-1-methyl-6-trifluoromethyluracil. The NMR spectrum was consistent with the proposed structure.

reactant | 3-(5-chloro-3,4-dihydro-7-fluoro-2H-1-benzopyran-8-yl)-1-methyl-6-trifluoromethyluracil | 0.0013 mole, 0.5 gram | ClC1=CC(=C(C2=C1CCCO2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C15H11ClF4N2O3
reactant | potassium persulfate | 0.0040 mole, 1.1 grams | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | water | 30 mL | O | H2O
catalyst | copper(11) sulfate pentahydrate | 0.0013 mole, 0.3 gram | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | 3-(5-chloro-3,4-dihydro-7-fluoro-2H-1-benzopyran-3-on-8-yl)-1-methyl-6-trifluoromethyluracil | 0.5 gram | ClC1=CC(=C(C2=C1CC(CO2)=O)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C15H9ClF4N2O4
